US06800651B2
N-(3-(2-Fluorophenoxy)phenyl)-N-(2,2,2-trifluorethanesulfonyl)pyrid-3-ylmethylamine
Using the method of Example 342 using N-(3-(2-fluorophenoxy)phenyl)pyridin-3-ylmethylamine and 2,2,2-trifluoroethanesulfonyl chloride and purifying via radial chromatography eluting with 40:60 to 50:50 THF/hexanes gave the title compound. Anal Calcd for C20H16F4N2O3S: C, 54.54; H, 3.66; N, 6.36. Found: C, 54.23; H, 3.40; N, 6.31. MS found 441.2 [M+H]+

reactant | N-(3-(2-fluorophenoxy)phenyl)pyridin-3-ylmethylamine | FC1=C(OC=2C=C(C=CC2)NCC=2C=NC=CC2)C=CC=C1 | C18H15FN2O
reactant | 2,2,2-trifluoroethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | N-(3-(2-Fluorophenoxy)phenyl)-N-(2,2,2-trifluorethanesulfonyl)pyrid-3-ylmethylamine | FC1=C(OC=2C=C(C=CC2)N(S(=O)(=O)CC(F)(F)F)CC=2C=NC=CC2)C=CC=C1 | C20H16F4N2O3S
